US06229020B1
Synthesis of (E) 3-(4-dimethylamino-2-nitrophenyl)-2-methyl-2-propenoic acid
Into 150 ml of methanol, 15.0 g (53.9 mmol) of (E) ethyl 3-(4-dimethylamino-2-nitrophenyl)-2-methyl-2-propenate were dissolved; and, with 3.2 g (80 mmol) of sodium hydroxide being added thereto, the mixture was stirred at 45° C. for 5.5 hours. After the solvent was evaporated from the reaction liquid under a reduced pressure, the residue was dissolved in 100 ml of water. Thus obtained solution was adjusted to neutral with 2-N hydrochloric acid being added thereto. The precipitated crystal was filtered out, fully washed with water, and then dried, whereby 12.1 g of the aimed compound were obtained as a crystal (yield: 89.7%).

reactant | ethyl 3-(4-dimethylamino-2-nitrophenyl)-2-methyl-2-propenate | CN(C1=CC(=C(C=C1)C=C(C(=O)OCC)C)[N+](=O)[O-])C | C14H18N2O4
reactant | sodium hydroxide | 80 mmol, 3.2 g | [OH-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
product | 3-(4-dimethylamino-2-nitrophenyl)-2-methyl-2-propenoic acid | 12.1 g | CN(C1=CC(=C(C=C1)C=C(C(=O)O)C)[N+](=O)[O-])C | C12H14N2O4
